US05773449
4-Hydroxyquinoline (1.45 g, 10 mmol) was dissolved in 3 ml of concentrated sulfuric acid and the solution was cooled -10° C. or less. The solution was gradually added with mixed acid (0.8 ml of concentrated nitric acid with 1.2 ml of concentrated sulfuric acid) such that the reaction solution was not elevated in temperature up to 0° C. or more, and stirred at 0° C. for 3 hours. The reaction mixture was poured into crashed ice and neutralized with 2N aqueous solution of sodium hydroxide. The resulting precipitates were filtered off and washed with water. The filtrate was combined with the washing solution and extracted with methylene chloride. After drying over anhydrous magnesium sulfate, the solvent was removed under reduced pressure. The residue was developed by silica gel column chromatography (Wako Gel™ C-200, methylene chloride : methanol=20 : 1). Firstly eluted yellow fractions were collected and the solvent was removed to obtain 380 mg (20%) of 4-hydroxy-8-nitroquinoline.

reactant | 4-Hydroxyquinoline | 10 mmol, 1.45 g | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | nitric acid | 0.8 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 1.2 ml | S(O)(O)(=O)=O | H2O4S
product | 4-hydroxy-8-nitroquinoline | 380 mg, 20% | OC1=CC=NC2=C(C=CC=C12)[N+](=O)[O-] | C9H6N2O3
